US05753138
N-(4-nitrobenzoyl)valerolactam:
Synthesized as for N-(4-nitrobenzoyl)caprolactam (Example XXIII using valerolactam (Aldrich) in place of caprolactam.

reactant | N-(4-nitrobenzoyl)caprolactam | [N+](=O)([O-])C1=CC=C(C(=O)N2C(CCCCC2)=O)C=C1 | C13H14N2O4
reactant | valerolactam | C1(CCCCN1)=O | C5H9NO
product | N-(4-nitrobenzoyl)valerolactam | [N+](=O)([O-])C1=CC=C(C(=O)N2C(CCCC2)=O)C=C1 | C12H12N2O4
